US08202873B2
3′-(4-Methoxyphenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazine
Couple 2-chloro-3-(4-methoxyphenyl)-pyrazine (0.236 g, 1.07 mmol) and piperazine (3.10 g, 36.0 mmol) in tetrahydrofuran (5 mL) and heat at 120° C. for 2 hr. Purify using silica gel chromatography, eluting with 0:100 to 20:80 methanol:DCM, to give the title preparation (0.220 g, 76%). MS (ES): m/z=271 [M+H]+.

reactant | 2-chloro-3-(4-methoxyphenyl)-pyrazine | 1.07 mmol, 0.236 g | ClC1=NC=CN=C1C1=CC=C(C=C1)OC | C11H9ClN2O
reactant | piperazine | 36.0 mmol, 3.10 g | N1CCNCC1 | C4H10N2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3′-(4-Methoxyphenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazine | COC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C15H18N4O
